US07507726B2
(2R)-2-({N-formyl-N-benzoxy-amino}methyl)-7-octenoic acid
To a cold solution of HCO2H (3.2 mL) and dichloromethane (10 mL) at 0° C. was added acetic anhydride (1.2 mL, 12.9 mmol). The mixture was stirred for 1 hour at 0° C. To the resulting mixture was added slowly a solution of (2R)-2-({N-benzoxy-amino}methyl)-7-octenoic acid (358 mg, 1.29 mmol) in dichloromethane (10 mL). The mixture was stirred at 0° C. for 3 hours. The volatiles were removed by evaporation under vacuum. Dichloromethane (20 mL) was added to it. It was washed with brine (20 mL×2), and dried over MgSO4. Filtration and evaporation under vacuum provided the title compound. MH+306.

reactant | HCO2H | 3.2 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 12.9 mmol, 1.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2R)-2-({N-benzoxy-amino}methyl)-7-octenoic acid | 1.29 mmol, 358 mg | C(C1=CC=CC=C1)ONC[C@H](C(=O)O)CCCCC=C | C16H23NO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2R)-2-({N-formyl-N-benzoxy-amino}methyl)-7-octenoic acid | C(=O)N(OCC1=CC=CC=C1)C[C@H](C(=O)O)CCCCC=C | C17H23NO4
